US08222399B2
To 9.0 g of cinnamylideneacetic acid (manufactured by Lancaster) were added 3.5 g of tetraethylammonium bromide (manufactured by Wako Pure Chemical) and 100 ml of epichlorohydrin (manufactured by Wako Pure Chemical), the mixture was heated to reflux at 110° C. for 3 hours, 50 ml of distilled water was added thereto and an organic layer was separated and concentrated in vacuo at 80° C. to give 17.3 g of glycidyl cinnamylideneacetate. An epoxy equivalent of this glycidyl cinnamylideneacetate was 444.3.

reactant | cinnamylideneacetic acid | 9.0 g | C(C=CC1=CC=CC=C1)=CC(=O)O | C11H10O2
reactant | epichlorohydrin | 100 ml | C(Cl)C1CO1 | C3H5ClO
catalyst | tetraethylammonium bromide | 3.5 g | [Br-].C(C)[N+](CC)(CC)CC
solvent | water | 50 ml | O | H2O
product | glycidyl cinnamylideneacetate | 17.3 g | C(C=CC1=CC=CC=C1)=CC(=O)OCC1CO1 | C14H14O3
